US07932262B2
To a suspension of 2-amino-3-chlorobenzoic acid (2 g, 11.6 mmol) in chloroform (120 mL) was added dropwise bromine (1.1 equiv.) in chloroform (12 mL) solution. The mixture was stirred at room temperature for 16 hrs. The resulting white solid was collected by filtration and washed thoroughly with methylene chloride until the filtrate was colorless. The solid was air-dried to give 3.35 g of white powder as HBr salt of 2-amino-5-bromo-3-chlorobenzoic acid (87% yield). ES/MS m/z 250/252 (MH+).

reactant | 2-amino-3-chlorobenzoic acid | 11.6 mmol, 2 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | bromine | 1.1 equiv. | BrBr | Br2
reactant | HBr | Br | BrH
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-bromo-3-chlorobenzoic acid | 87% yield | NC1=C(C(=O)O)C=C(C=C1Cl)Br | C7H5BrClNO2
